US08198279B2
1-(2-fluoro-4-(3-(methylamino)pyrido[3,2-b]pyrazin-8-yloxy)phenyl)-3-(2-fluoro-5-(trifluoromethyl)phenyl)urea (AA-055)
Method F2 was used with 2-fluoro-5-(trifluoromethyl)phenyl isocyanate and 8-(4-amino-3-fluorophenoxy)-N-methylpyrido[3,2-b]pyrazin-3-amine to give the title compound as a white solid. Yield: 56 mg (80%).

reactant | 2-fluoro-5-(trifluoromethyl)phenyl isocyanate | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
reactant | 8-(4-amino-3-fluorophenoxy)-N-methylpyrido[3,2-b]pyrazin-3-amine | NC1=C(C=C(OC2=CC=NC=3C2=NC=C(N3)NC)C=C1)F | C14H12FN5O
product | 1-(2-fluoro-4-(3-(methylamino)pyrido[3,2-b]pyrazin-8-yloxy)phenyl)-3-(2-fluoro-5-(trifluoromethyl)phenyl)urea | FC1=C(C=CC(=C1)OC1=CC=NC=2C1=NC=C(N2)NC)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F | C22H15F5N6O2
